US08530461B2
(S)—N-(1-{4-[3-(2,3-Difluoro-4-methyl-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
To 0.023 g (0.10 mmol) (S)—N-{1-[4-(3-hydroxy-azetidin-1-yl)-phenyl]-ethyl}-acetamide (V.1) in 5 mL THF are added 0.017 mL (0.12 mmol) TEA and the mixture is cooled to 0° C. 0.008 mL (0.10 mmol) methanesulfonyl chloride are added dropwise and the mixture is stirred for 2 h at 0° C. Water is added and the aq. phase is extracted with ethyl acetate (2×). The combined organic layers are dried (MgSO4) and concentrated. The residue is taken up in 1.0 mL DMA and is added to a mixture of 0.014 g (0.12 mmol) 2,3-difluoro-4-methylphenol and 0.039 g (0.12 mmol) Cs2CO3 in 1.0 mL DMA. The resulting mixture is stirred for 12 h at 100° C. After cooling the mixture is directly purified by HPLC (MeOH/water (+0.1% NH4OH)) to yield the desired product.

reactant | (S)—N-{1-[4-(3-hydroxy-azetidin-1-yl)-phenyl]-ethyl}-acetamide | 0.10 mmol, 0.023 g | OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C13H18N2O2
reactant | methanesulfonyl chloride | 0.10 mmol, 0.008 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,3-difluoro-4-methylphenol | 0.12 mmol, 0.014 g | FC1=C(C=CC(=C1F)C)O | C7H6F2O
reactant | Cs2CO3 | 0.12 mmol, 0.039 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMA | 1.0 mL | CC(=O)N(C)C | C4H9NO
solvent | Water | O | H2O
product | (S)—N-(1-{4-[3-(2,3-Difluoro-4-methyl-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | FC1=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=CC(=C1F)C | C20H22F2N2O2
